US04739066
In 1 ml of acetic acid is dissolved 0.45 g of tert-butyl 3(R)-[5-(1-benzoyloxycarbonyl-4-piperidyl)-1(R)-ethoxycarbonylpentyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate, and 1 ml of 30% hydrogen bromide-acetic acid solution is added to the solution, followed by allowing the mixture to stand at room temperature for 1.5 hours. Ethyl ether (200 ml) is added to the reaction solution, which is then allowed to stand. The supernatant liquid is decanted, and the precipitate is washed with ethyl ether and dried to give 0.3 g of 3(R)-[1(R)-ethoxycarbonyl-5-(4-piperidyl)pentyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepin-5-acetic acid.dihydrobromide as a colorless powder.

reactant | tert-butyl 3(R)-[5-(1-benzoyloxycarbonyl-4-piperidyl)-1(R)-ethoxycarbonylpentyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate | 0.45 g | C(C1=CC=CC=C1)(=O)OC(=O)N1CCC(CC1)CCCC[C@H](C(=O)OCC)N[C@H]1CSC2=C(N(C1=O)CC(=O)OC(C)(C)C)C=CC=C2 | C36H47N3O8S
reactant | hydrogen bromide acetic acid | 1 ml | Br.C(C)(=O)O
reactant | Ethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 3(R)-[1(R)-ethoxycarbonyl-5-(4-piperidyl)pentyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepin-5-acetic acid.dihydrobromide | 0.3 g | Br.Br.C(C)OC(=O)[C@@H](CCCCC1CCNCC1)N[C@H]1CSC2=C(N(C1=O)CC(=O)O)C=CC=C2 | InChI=1S/C24H35N3O5S.2BrH/c1-2-32-24(31)18(8-4-3-7-17-11-13-25-14-12-17)26-19-16-33-21-10-6-5-9-20(21)27(23(19)30)15-22(28)29;;/h5-6,9-10,17-19,25-26H,2-4,7-8,11-16H2,1H3,(H,28,29);2*1H/t18-,19+;;/m1../s1
